US07307094B2
A mixture of 2-(3,5-dimethylisoxazol-4-yl)benzoxazole-4-carboxylic acid (136 mg, 0.53 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (201 mg, 1.05 mmol), 1-hydroxybenzotriazole (142 mg, 1.05 mmol) and (S)-(−)-3-aminoquinuclidine dihydrochloride (131 mg, 0.66 mmol) in DMF (5 mL) was stirred at room temperature for 10 min, then triethylamine (0.56 mL, 4.0 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane (100 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (2×50 mL). The combined organics were washed with water (5×25 mL), brine (25 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 methylene chloride/methanol/concentrated ammonium hydroxide) and recrystallization from acetonitrile to afford (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(3,5-dimethylisoxazole-4-yl)benzoxazole-4-carboxamide (91 mg, 47%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.09 (d, J=6.5 Hz, 1H), 8.22 (dd, J=7.8, 1.0 Hz, 1H), 7.72 (dd, J=8.1, 1.0 Hz, 1H), 7.49 (t, J=8.0 Hz, 1H), 4.33-4.29 (m, 1H), 3.58-3.53 (m, 1H), 3.00-2.90 (m, 3H), 2.89 (s, 3H), 2.76-2.71 (m, 1H), 2.69 (s, 3H), 2.15-2.10 (m, 1H), 1.97-1.85 (m, 2H), 1.80-1.70 (m, 2H), 1.61-1.50 (m, 1H); MS (ESI+) m/z 367 (M+H); HPLC>99% (AUC), tR=11.69 min.

reactant | 2-(3,5-dimethylisoxazol-4-yl)benzoxazole-4-carboxylic acid | 0.53 mmol, 136 mg | CC1=NOC(=C1C=1OC=2C(N1)=C(C=CC2)C(=O)O)C | C13H10N2O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.05 mmol, 201 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.05 mmol, 142 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | 0.66 mmol, 131 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | triethylamine | 4.0 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(3,5-dimethylisoxazole-4-yl)benzoxazole-4-carboxamide | 91 mg, 47% | N12C[C@H](C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C=1C(=NOC1C)C | C20H22N4O3
